US04035492
2-(2-p-toluenesulfonamido ethylthio) pyridine N-oxide (Method VII):
To a solution of 4.12 g of 2-β-aminoethylthio pyridine N-oxide hydrochloride in 60 cc of water, there are added 4 cc of 5N soda, then 3.8 g of p-toluenesulfonyl chloride. The mixture is agitated for 5 hours at ambient temperature. The pH is maintained at 9.5 by the addition of normal soda. The precipitate is filtered and crystallized in aqueous ethanol. Yield = 88%. Fusion point: 201° C.

reactant | 2-β-aminoethylthio pyridine N-oxide hydrochloride | 4.12 g | Cl.NCCSC1=[N+](C=CC=C1)[O-]
reactant | p-toluenesulfonyl chloride | 3.8 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | water | 60 cc | O | H2O
product | 2-(2-p-toluenesulfonamido ethylthio) pyridine N-oxide | Yield = 88% | C1(=CC=C(C=C1)S(=O)(=O)NCCSC1=[N+](C=CC=C1)[O-])C | C14H16N2O3S2
